US09102654B2
3-Chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-amine
3-Chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid hydrochloride (1.00 g, 2.50 mmol) was dissolved in a mixture of dimethylsulfoxide (0.625 mL) and N,N-dimethylformamide (11.9 ml). Trifluoroacetic acid (1.93 ml, 25.0 mmol) was added followed by the addition of palladium(II) trifluoroacetate (0.332 g, 1.00 mmol). The reaction was heated at 100° C. overnight, at which time LCMS indicated that a reaction had occurred but no desired product had been formed.

reactant | 3-Chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid hydrochloride | 2.50 mmol, 1.00 g | Cl.ClC1=NN(C(=C1)C(=O)O)C=1C=NC=CC1
reactant | Trifluoroacetic acid | 25.0 mmol, 1.93 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N,N-dimethylformamide | 11.9 ml | CN(C=O)C | C3H7NO
solvent | dimethylsulfoxide | 0.625 mL | CS(=O)C | C2H6OS
catalyst | palladium(II) trifluoroacetate | 1.00 mmol, 0.332 g | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
product | 3-Chloro-N-ethyl-1-(pyridin-3-yl)-1H-pyrazol-amine | ClC1(NN(C=C1)C=1C=NC=CC1)NCC | C10H13ClN4
